US07662831B2
Following the procedure of Example 1, Step 4, 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine (0.10 g, 0.44 mmol), acetic anhydride (0.042 mL, 0.44 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided 28 mg of N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-ylacetamide. MS m/z 269; HPLC purity 100% at 210-370 nm, 9.2 min.; 98.7% at 248 nm, 9.2 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 ((Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C17H20N2O+H+, 269.16484; found (ESI, [M+H]+), 269.1651.

reactant | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine | 0.44 mmol, 0.10 g | C1=C2C3=C(N4C2=C(C=C1N)CC4)CCCCC3 | C15H18N2
reactant | acetic anhydride | 0.44 mmol, 0.042 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-ylacetamide | 28 mg | C1=C2C3=C(N4C2=C(C=C1NC(C)=O)CC4)CCCCC3 | C17H20N2O
